* source BTL_33V
V_V1         N00149 N00156 20Vdc
C_C2         N00156 N00149  1uF  TC=0,0 
L_L3         N00156 0  10uH  
L_L1         N00149 N00199  10uH  
C_C4         0 N00217  100uF  TC=0,0 
C_C3         0 N00217  0.1uF  TC=0,0 
X_U2         N00217 N01207 N01203 0 0 LM2596_3P3_TRANS
L_L2         N01203 N01207  15uH  
R_R1         0 N01207  220 TC=0,0 
C_C6         0 N01207  220uF  TC=0,0 
C_C5         0 N01207  0.1uF  TC=0,0 
D_D4         0 N01203 MBR340 
D_D3         N00199 N00217 MBR340 
