* source BTLMACH_SENNOR_CURRENT
R_R1         N00183 N00240  1k TC=0,0 
R_R2         0 N00183  1k TC=0,0 
C_C1         0 N00183  1uF  TC=0,0 
V_V1         N00240 0 3.3Vdc
R_R3         N00330 N00554  1k TC=0,0 
R_R4         N00586 N00554  100 TC=0,0 
R_R5         N00627 N00586  1k TC=0,0 
R_R6         0 N00627  1k TC=0,0 
C_C2         0 N00627  100pF  TC=0,0 
R_R7         0 N00735  1k TC=0,0 
R_R8         N00735 N00855  1k TC=0,0 
C_C3         N00735 N00855  100pF  TC=0,0 
I_I1         N01893 0 DC 0Adc AC 0Aac
+SIN 0 3 100 0 0 0
X_U3         N01893 0 N00240 0 N00586 TMCS1108A4B PARAMS: MODE=1
E_U4         N00855 0 VALUE {LIMIT(V(N00627,N00735)*1E6,-15V,+15V)}
E_U5         N00330 0 VALUE {LIMIT(V(N00183,N00330)*1E6,-15V,+15V)}
